US06756382B2
Using the general method of Example 181 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (400 mg, 1.28 mmol) was reacted with N-(4-tert-butylphenylsulfonyl)-L-proline (477 mg, 1.53 mmol) to provide 123 mg of N-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-1-[(4-tert-butylphenyl)sulfonyl]-L-prolinamide as a brown oil.

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.28 mmol, 400 mg | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | N-(4-tert-butylphenylsulfonyl)-L-proline | 1.53 mmol, 477 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C15H21NO4S
product | N-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-1-[(4-tert-butylphenyl)sulfonyl]-L-prolinamide | 123 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC([C@H]2N(CCC2)S(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)=O)CCOC | C32H42N6O4S
